US09399646B2
A mixture of chloropyrazine (124 mg, 1.08 mmol), K2CO3 (749 mg, 5.42 mmol), and 4-iodophenol (263 mg, 1.20 mmol) in DMF (24 mL) was heated at 100° C. for 9.5 h and then stirred at rt overnight. The reaction was diluted with EtOAc and washed with H2O (40 mL). The aqueous wash was back extracted with EtOAc (20 mL). The organic extracts were combined, washed with H2O (2×40 mL), washed with brine (40 mL), dried (MgSO4), filtered, concentrated and purified by silica gel chromatography (0%-20% EtOAc in hexanes) to give 289 mg of 2-(4-iodophenoxy)pyrazine (containing 15% of 4-iodophenol) as a white semi-solid. 1H NMR (400 MHz, DMSO-d6): δ 8.57 (d, 1H), 8.41 (d, 1H), 8.21 (dd, 1H), 7.78 (d, 2H), 7.07 (d, 2H).

reactant | chloropyrazine | 1.08 mmol, 124 mg | ClC1=NC=CN=C1 | C4H3ClN2
reactant | K2CO3 | 5.42 mmol, 749 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-iodophenol | 1.20 mmol, 263 mg | IC1=CC=C(C=C1)O | C6H5IO
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-iodophenoxy)pyrazine | 289 mg, 15% | IC1=CC=C(OC2=NC=CN=C2)C=C1 | C10H7IN2O
